US07659297B2
(rac. )6-Fluoro-1-[(8-fluoro-2-methylquinazolin-5-yl)amino]-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalene-2,5-diol
111.2 mg (0.231 mmol) of (rac.)6-fluoro-1-[(8-fluoro-2-methylquinazolin-5-yl)amino]-5-methoxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen -2-ol is mixed at 0° C. with 3.2 ml of a 1 molar solution of boron tribromide in dichloromethane, and it is stirred for one and one-half hours at 0 to 5° C. At 0° C., saturated sodium bicarbonate solution is now carefully added in drops. After 10 minutes of vigorous stirring at room temperature, the batch is extracted three times with ethyl acetate. The organic phases are dried, and after the solvent is spun off, the residue is chromatographed on a Flashmaster. 66.4 mg (61.5%) of the desired compound is isolated.

reactant | (rac.)6-fluoro-1-[(8-fluoro-2-methylquinazolin-5-yl)amino]-5-methoxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen -2-ol | 0.231 mmol, 111.2 mg | FC=1C(=C2C(CC(C(C2=CC1C)NC1=C2C=NC(=NC2=C(C=C1)F)C)(O)C(F)(F)F)(C)C)OC | C24H24F5N3O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (rac. )6-Fluoro-1-[(8-fluoro-2-methylquinazolin-5-yl)amino]-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalene-2,5-diol | 66.4 mg, 61.5% | FC1=C(C=2C(CC(C(C2C=C1C)NC1=C2C=NC(=NC2=C(C=C1)F)C)(O)C(F)(F)F)(C)C)O | C23H22F5N3O2
